US04931083
1-(3,5-dichlorophenyl)-3-(1-ethoxycarbonylethoxy)-1,2,4-1H-triazole
A 1.8 g portion of sodium was dissolved in 75 ml of absolute ethanol, and the solution was added slowly with stirring to a solution of 18.5 g of 1-(3,5-dichlorophenyl)-3-hydroxy-1,2,4-1H-triazole in 200 ml of dimethylsulfoxide. The solution was stirred at 60° for 1 hour, 14.5 g of ethyl 2-bromopropionate was added, and the mixture was heated for 2 hours at 100°-110°. It was then poured over ice water, and the solid was collected, dried and recrystallized from ether to obtain 10 g of the desired product. The mother liquor was chromatographed to obtain 1.3 g of additional product.

reactant | sodium | [Na] | Na
reactant | 1-(3,5-dichlorophenyl)-3-hydroxy-1,2,4-1H-triazole | 18.5 g | ClC=1C=C(C=C(C1)Cl)N1N=C(N=C1)O | C8H5Cl2N3O
reactant | ethyl 2-bromopropionate | 14.5 g | BrC(C(=O)OCC)C | C5H9BrO2
solvent | ethanol | 75 ml | C(C)O | C2H6O
solvent | dimethylsulfoxide | 200 ml | CS(=O)C | C2H6OS
product | 1-(3,5-dichlorophenyl)-3-(1-ethoxycarbonylethoxy)-1,2,4-1H-triazole | 10 g | ClC=1C=C(C=C(C1)Cl)N1N=C(N=C1)OC(C)C(=O)OCC | C13H13Cl2N3O3
